### PR TITLE
[Merged by Bors] - chore(Order/Interval/Set/Basic): more simp lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
This makes sure that `Set.Ioi x` can be simplified when `hx : IsMax x` is in context.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 1]
```diff
@@ -521,13 +521,16 @@ theorem _root_.IsTop.Iic_eq (h : IsTop a) : Iic a = univ :=
...
-theorem Iio_eq_empty_iff : Iio a = ∅ ↔ IsMin a := Ioi_eq_empty_iff (α := αᵒᵈ)
+@[simp] theorem Iio_eq_empty_iff : Iio a = ∅ ↔ IsMin a := Ioi_eq_empty_iff (α := αᵒᵈ)
 
-alias ⟨_, _root_.IsMax.Ioi_eq⟩ := Ioi_eq_empty_iff
-alias ⟨_, _root_.IsMin.Iio_eq⟩ := Iio_eq_empty_iff
+@[simp] lemma Iio_nonempty : (Iio a).Nonempty ↔ ¬ IsMin a := by simp [nonempty_iff_ne_empty]
+@[simp] lemma Ioi_nonempty : (Ioi a).Nonempty ↔ ¬ IsMax a := by simp [nonempty_iff_ne_empty]
+
+@[simp] alias ⟨_, _root_.IsMax.Ioi_eq⟩ := Ioi_eq_empty_iff
+@[simp] alias ⟨_, _root_.IsMin.Iio_eq⟩ := Iio_eq_empty_iff
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/Basic.lean:533]: Let's keep these next to the elements they're aliases of

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 2]
```diff
@@ -1664,10 +1665,10 @@ namespace Set
 @[simp] lemma Iic_True : Iic True = univ := by aesop
 @[simp] lemma Ici_False : Ici False = univ := by aesop
 @[simp] lemma Ici_True : Ici True = {True} := by aesop
-@[simp] lemma Iio_False : Iio False = ∅ := by aesop
+lemma Iio_False : Iio False = ∅ := by aesop
 @[simp] lemma Iio_True : Iio True = {False} := by aesop (add simp [Ioi, lt_iff_le_not_le])
 @[simp] lemma Ioi_False : Ioi False = {True} := by aesop (add simp [Ioi, lt_iff_le_not_le])
-@[simp] lemma Ioi_True : Ioi True = ∅ := by aesop
+.IsMin.Iio_eq⟩ := Iio_eq_empty_ifflemma Ioi_True : Ioi True = ∅ := by aesop
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/Basic.lean:1671]: Bad find-replace?

Comment (YaelDillies) [reply Mathlib/Order/Interval/Set/Basic.lean:1671]: Bad fingers!

**Comment by b-mehta** [comment]
Heads up: the build is broken again. Might be worth reverting the changes that you added after delegation, for the moment

**Comment by YaelDillies** [comment]
Don't worry, I unbreak my PRs every day first thing in the morning 😁
